US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-8-methoxy-3-quinoline-carboxamide
To a mixture of 0.50 g of 4-hydroxy-8-methoxy-3-quinolinecarboxylic acid (J. Amer. Chem. Soc., 68, 1268 (1946)) and 10 mL of dimethylformamide is added 0.41 g of carbonyldiimidazole. The mixture is stirred 20 h at 37° C. and then it is cooled to ° C. The mixture is treated with 0.25 mL of distilled water and stirred for 5 min. To the resulting solution is added 0.31 mL of 4-chlorobenzylamine. After stirring for 18 hours the mixture is warmed to 40° C. and stirred an additional 24 h. The solution is then cooled to 25° C. and it is diluted with 10 mL of distilled water. After minutes the precipitate is collected by filtration and it is washed with two successive 5 mL portions of 10% aqueous acetic acid. It is dried for 18 h in a stream of air at 25° C. This procedure yields the title compound as 485 mg of a tan solid.

reactant | 4-hydroxy-8-methoxy-3-quinolinecarboxylic acid | 0.50 g | OC1=C(C=NC2=C(C=CC=C12)OC)C(=O)O | C11H9NO4
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | carbonyldiimidazole | 0.41 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorobenzylamine | 0.31 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | water | 10 mL | O | H2O
solvent | water | 0.25 mL | O | H2O
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-8-methoxy-3-quinoline-carboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=CC=C2C1O)OC | C18H15ClN2O3
